US07981903B2
The 1-(bromoacetyl)-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole (4.0 g, 12.7 mmol) was dissolved in 50 mL of dicholomethane, then K2CO3 (4.4 g, 31.7 mmol) and 2-(ethylamino)ethanol (2.3 g, 25.4 mmol) in 10 mL dichloromethane were added, the reaction was stirred at RT for 3 hours. After filtration, the organic layers were washed with water (2×100 mL)and dried over Na2SO4. The solvent was removed to yield the 2-[{2-[6-amino-5-(methyloxy)-2,3-dihydro-1H-indol-1-yl]-2-oxoethyl}(ethyl)amino]ethanol as a yellow solid (3.77 g, 92%).1HNMR (400 MHz, DMSO-d6) δ ppm: 0.94 (t, J=7.14 Hz,3 H), 2.45 (s, 2 H), 2.60 (m, 4 H), 3.18 (t, J=8.42 Hz, 2 H), 3.40 (t, J=6.13 Hz,2H), 3.84 (s, 3 H), 4.19 (t, J=8.51 Hz, 2 H), 7.29 (s, 1 H), 8.43 (s, 1 H).

reactant | 1-(bromoacetyl)-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 12.7 mmol, 4.0 g | BrCC(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C11H11BrN2O4
reactant | K2CO3 | 31.7 mmol, 4.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(ethylamino)ethanol | 25.4 mmol, 2.3 g | C(C)NCCO | C4H11NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-[{2-[6-amino-5-(methyloxy)-2,3-dihydro-1H-indol-1-yl]-2-oxoethyl}(ethyl)amino]ethanol | 3.77 g, 92% | NC1=C(C=C2CCN(C2=C1)C(CN(CCO)CC)=O)OC | C15H23N3O3
